US05948820
2-Amino-2-ethyl-4-(4-octylphenyl)butanol
In working example 77, 2-acetamido-2-ethyl-4-(4-octanoylphenyl)butyl acetate obtained by using ethylmalonic acid diethyl ester instead of propylmalonic acid diethyl ester, is subjected to reduction in the same manner as working example 2 (7) and then hydrolysis in the same manner as working example 78 to give the subject compound.

reactant | 2-acetamido-2-ethyl-4-(4-octanoylphenyl)butyl acetate | C(C)(=O)OCC(CCC1=CC=C(C=C1)C(CCCCCCC)=O)(CC)NC(C)=O | C24H37NO4
reactant | ethylmalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)CC)=O | C9H16O4
product | 2-Amino-2-ethyl-4-(4-octylphenyl)butanol | NC(CO)(CCC1=CC=C(C=C1)CCCCCCCC)CC | C20H35NO
